US06951868B2
A suspension of calcium ethoxide (816 mg, 6.3 mmol), butene oxide (5.2 mL, 93 mmol) and 2,4-diiodophenol (2.17 g, 6.3 mmol) is heated in a sealed flask at 80° C. for 18 h. The reaction mixture is allowed to cool, poured into 1N HCl and extracted three times with CH2Cl2. The combined organic extracts are dried (Na2SO4), filtered and concentrated in vacuo. The resulting material is purified by column chromatography (two columns, step gradient of 30-40-50% CH2Cl2 in hexanes) to give 1-(2,4-diiodophenoxy)butan-2-ol as a clear oil (1.73 g, 67%).1H NMR (400 MHz, CDCl3) δ 8.04, 7.56, 6.57, 4.03, 3.9, 3.84, 2.42, 1.65, 1.04.

reactant | calcium ethoxide | 6.3 mmol, 816 mg | [O-]CC.[Ca+2].[O-]CC
reactant | butene oxide | 93 mmol, 5.2 mL | C1C(CC)O1 | C4H8O
reactant | 2,4-diiodophenol | 6.3 mmol, 2.17 g | IC1=C(C=CC(=C1)I)O | C6H4I2O
reactant | HCl | 1N | Cl | ClH
product | 1-(2,4-diiodophenoxy)butan-2-ol | 1.73 g, 67% | IC1=C(OCC(CC)O)C=CC(=C1)I | C10H12I2O2
